US05034401
A mixture of 60.65 H (318 mmoles) 1-phenylmethyl-4-piperidinol, 500 ml dimethylformamide, 46.25 g, that is 41 ml (475 mmoles) 2-fluoropyridine and 17 g 50% sodium hydride in mineral oil is heated at 100° C. for 1 h. The mixture is cooled in an ice bath, 20 ml water are added, the mixture is stirred for 30 min and concentrated to a residual volume of about 200 ml. 1 1 iced water is added, the mixture is stirred at 0° C. for 30 min, and the precipitate is filtered off, washed and dried. 90.71 g 1-phenylmethyl-4-(2-pyridinyloxy)piperidine are thus isolated. Melting point: 75° C.

reactant | 1-phenylmethyl-4-piperidinol | 318 mmoles | C1(=CC=CC=C1)CN1CCC(CC1)O | C12H17NO
reactant | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
reactant | 2-fluoropyridine | 475 mmoles, 41 ml | FC1=NC=CC=C1 | C5H4FN
reactant | sodium hydride | 17 g | [H-].[Na+]
solvent | water | 20 ml | O | H2O
product | 1-phenylmethyl-4-(2-pyridinyloxy)piperidine | 90.71 g | C1(=CC=CC=C1)CN1CCC(CC1)OC1=NC=CC=C1 | C17H20N2O
